US09238640B2
A 60% suspension in oil of NaH (0.113 g, 2.8 mmol) was added to a 0° C. solution of N-(1-(4-formylphenyl)piperidin-4-yl)acetamide (0.700 g, 2.8 mmol) in DMF (10 mL) and stirred for 35 minutes. To this mixture was added EtI (0.23 mL, 2.8 mmol) and the reaction was warmed to room temperature for 2 hours, quenched with H2O, and extracted with EtOAc. The organics were washed with brine, dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. Purification by flash chromatography on silica gel, eluting with 0% to 5% MeOH/CH2Cl2, afforded N-ethyl-N-(1-(4-formylphenyl)piperidin-4-yl)acetamide (0.490 g, 64%).

reactant | NaH | 2.8 mmol, 0.113 g | [H-].[Na+]
reactant | N-(1-(4-formylphenyl)piperidin-4-yl)acetamide | 2.8 mmol, 0.700 g | C(=O)C1=CC=C(C=C1)N1CCC(CC1)NC(C)=O | C14H18N2O2
reactant | EtI | 2.8 mmol, 0.23 mL | C(C)I | C2H5I
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N-ethyl-N-(1-(4-formylphenyl)piperidin-4-yl)acetamide | 0.490 g, 64% | C(C)N(C(C)=O)C1CCN(CC1)C1=CC=C(C=C1)C=O | C16H22N2O2
